US08119692B2
4-(4-Fluoro-phenyl)-N-hydroxy-4-methylsulfanyl-butyramide (Compound 167366)
To a solution of methyl 4-(4-fluorophenyl)-4-(methylthio)butanoate (30.0 mg, 0.12 mmol) dissolved in 2 mL of THF, methanol, and 50 wt % NH2OH in H2O (2:2:1) was added KCN (4.0 mg, 0.06) and the resulting mixture stirred for 3 days at room temperature. The reaction was quenched by the addition of aqueous 1M HCl (10 mL) and the resulting mixture extracted with ethyl acetate (3×10 mL). The combined organic layers were washed with brine (2×5 mL). The product was isolated by flash column chromatography eluting with 0% to 10% methanol/DCM to give the title compound (27 mg) as a colorless oil.

reactant | methyl 4-(4-fluorophenyl)-4-(methylthio)butanoate | 0.12 mmol, 30.0 mg | FC1=CC=C(C=C1)C(CCC(=O)OC)SC | C12H15FO2S
reactant | methanol | CO | CH4O
reactant | NH2OH | NO | H3NO
reactant | KCN | 4.0 mg | [C-]#N.[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 4-(4-Fluoro-phenyl)-N-hydroxy-4-methylsulfanyl-butyramide | 27 mg | FC1=CC=C(C=C1)C(CCC(=O)NO)SC | C11H14FNO2S
